US06156700
Preparation of 3-[3-(2-Hydroxyethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
A mixture of 3-[3-(2-hydroxyethyl)-1,2-benzisothiazol-5-yl-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione acetate (1.00 g, 2.42 mmol) in 10% hydrochloric acid (250 mL) is refluxed for 35 minutes and filtered through glass wool to remove solids. The resultant filtrate is cooled and extracted with methylene chloride. The combined organic extracts are washed with water, dried over anhydrous sodium sulfate, and concentrated in vacuo to give the title product as a yellow solid which is identified by NMR spectral analysis.

reactant | 3-(2-hydroxyethyl)-1,2-benzisothiazol-5-yl-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione acetate | 2.42 mmol, 1.00 g | C(C)(=O)O.OCCC1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O
solvent | hydrochloric acid | 250 mL | Cl | ClH
product | 3-[3-(2-Hydroxyethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | OCCC1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C15H12F3N3O3S
